US07935688B2
(1) Synthesis of (E)-[6-(4-{1-ethyl-1-[4-(3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-phenyl)-pyridin-3-yl]-acetic Acid Ethyl Ester
A solution of (E)-3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol (Example 39-(5); 50.0 mg, 0.10 mmol), (6-chloro-pyridin-3-yl)acetic acid ethyl ester (31.4 mg, 0.15 mmol), tetrakistriphenylphosphine palladium (16.9 mg, 0.0146 mmol) and potassium phosphate (33.4 mg, 0.15 mmol) in N,N-dimethylformamide (0.30 mL) was stirred with microwave heating at 140° C. for 10 minutes. The reaction mixture was filtered through cotton plug, and the residue was purified by silica gel chromatography (30 to 40% ethyl acetate/hexane) to give the title compound (37.6 mg, 69%).

reactant | (E)-3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol | 0.10 mmol, 50.0 mg | C(C)C(/C=C/C1=C(C=C(C=C1)C(CC)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC)C)(CC)O | C31H45BO3
reactant | (6-chloro-pyridin-3-yl)acetic acid ethyl ester | 0.15 mmol, 31.4 mg | C(C)OC(CC=1C=NC(=CC1)Cl)=O | C9H10ClNO2
reactant | potassium phosphate | 0.15 mmol, 33.4 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 0.30 mL | CN(C=O)C | C3H7NO
product | (E)-[6-(4-{1-ethyl-1-[4-(3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-phenyl)-pyridin-3-yl]-acetic Acid Ethyl Ester | 37.6 mg, 69% | C(C)OC(CC=1C=NC(=CC1)C1=CC=C(C=C1)C(CC)(C1=CC(=C(C=C1)\C=C\C(CC)(O)CC)C)CC)=O | C34H43NO3
